US04031071
c. Nα-Benzyloxycarbonyl-D-alanyl-L-leucine methyl ester
Nα-Benzyloxycarbonyl-D-alanine, 8.92 g., 40 mmol, L-leucine methyl ester hydrochloride, 7.28 g., 40 mmol and 1-hydroxybenztriazole, 5.4 g., 40 mmol are dissolved in 100 ml. of dimethylformamide and the solution stirred and cooled to -10° C. Triethylamine, 5.6 ml., 40 mmol, is added and after fifteen minutes the solution is treated with 8.6 g., 42 mmol, of dicyclohexylcarbodiimide and stirred for 2 to 3 hours in a cooling bath and then to room temperature overnight. The mixture is filtered and the filtrate evaporated. The residue is dissolved in ethyl acetate and washed with 5% sodium bicarbonate solution, dilute hydrochloric acid and saturated sodium chloride solution, dried over magnesium sulfate and evaporated. The residue is crystallized twice from etherpetroleum ether, 12.88 g.; m.p. 65°-68° C.

reactant | Nα-Benzyloxycarbonyl-D-alanine | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C(=O)O | C11H13NO4
reactant | L-leucine methyl ester hydrochloride | Cl.COC([C@@H](N)CC(C)C)=O
reactant | 1-hydroxybenztriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Nα-Benzyloxycarbonyl-D-alanyl-L-leucine methyl ester | COC([C@@H](NC([C@H](NC(=O)OCC1=CC=CC=C1)C)=O)CC(C)C)=O | C18H26N2O5
